data/mechanism_extracts/JOC/10.1021_acs.joc.2c02844.json
{"doi": "10.1021_acs.joc.2c02844", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical four-component 1,2-difunctionalization of alkenes with diaryl diselenides, CS2, and secondary amines to give beta-selenyl dithiocarbamates via simultaneous C-Se and C-S bond formation", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anode oxidizes PhSeSePh to a radical cation that cleaves to PhSe radical (II) and PhSe cation (III); anode also oxidizes the in-situ generated dithiocarbamate anion (VI) to dithiocarbamate cation (VII), which couples to disulfide 3g. Cathode reduces PhSe+ back to 1/2 PhSeSePh and reduces protons to H2.", "key_intermediates": [{"name": "diphenyl diselenide radical cation (I)", "smiles": null, "role": "transient"}, {"name": "phenylselenyl radical (II, PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenium cation (III, PhSe+)", "smiles": null, "role": "reactive"}, {"name": "beta-phenylselenyl benzylic carbon radical (IV)", "smiles": null, "role": "reactive"}, {"name": "seleniranium / cyclic selenium intermediate (V)", "smiles": null, "role": "reactive"}, {"name": "dithiocarbamate anion (VI)", "smiles": "CCN(CC)C(=S)[S-]", "role": "reactive"}, {"name": "dithiocarbamate cation (VII)", "smiles": null, "role": "transient"}, {"name": "bis(dithiocarbamoyl) disulfide (3g)", "smiles": "CCN(CC)C(=S)SSC(=S)N(CC)CC", "role": "reactive"}, {"name": "beta-phenylselenyl benzylic cation (VIII)", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, PhSeSePh is oxidized (-1e) to a radical cation that fragments into PhSe• and PhSe+; PhSe• adds to styrene to give a benzylic C-radical (IV) that is either trapped by 3g (path a) or further anodically oxidized to benzylic cation VIII which is captured by dithiocarbamate anion VI (path b), while PhSe+ alternatively forms seleniranium V that opens with VI (path c). In parallel, CS2 + amine form dithiocarbamate VI, which is anodically oxidized (-2e) to cation VII coupling to give disulfide 3g; the cathode reduces protons to H2 and PhSe+ back to PhSeSePh.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Addition of 3.0 equiv TEMPO completely suppressed formation of 4a (0% yield), indicating a radical pathway involving PhSe• and/or benzylic C-radical"}, {"name": "PhSeCl (1d) without electricity", "smiles": "Cl[Se]c1ccccc1", "purpose": "intermediate_trap", "observation": "Stoichiometric PhSeCl with CS2/amine/K2CO3 and no current gave 4a in 18% yield, supporting involvement of an electrophilic Se / seleniranium intermediate"}, {"name": "bis(dithiocarbamoyl) disulfide 3g", "smiles": "CCN(CC)C(=S)SSC(=S)N(CC)CC", "purpose": "intermediate_trap", "observation": "Using preformed 3g instead of CS2 + amine under electrolysis gave 4a in 71% yield, supporting 3g as a key intermediate"}, {"name": "sodium diethyldithiocarbamate (3h)", "smiles": "CCN(CC)C(=S)[S-].[Na+]", "purpose": "intermediate_trap", "observation": "Using preformed dithiocarbamate salt 3h gave 4a in 42% yield, consistent with dithiocarbamate anion VI as an on-cycle species"}], "evidence_types_used": ["intermediate_trap_TEMPO", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Three competing product-forming pathways are proposed: (path a) radical IV + disulfide 3g; (path b) anodic oxidation of IV to benzylic cation VIII trapped by dithiocarbamate VI; (path c) PhSe+ forms seleniranium V which is opened by VI. The authors do not definitively distinguish among them. CV data (Ep = 0.09 and 1.13 V for dithiocarbamate; 1.90 and 1.64 V for PhSeSePh vs Ag/AgCl) support the order of anodic oxidations."}
